US07465731B2
To a solution of ethyl (2E)-3-(6-{[(3R)-1-phenyl-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate (47 mg) in dioxane (1.4 mL) was added 1N sodium hydroxide (0.42 mL). After stirring at 60° C. for 2 hours, the reaction mixture was added H2O (7 mL) and acidified with 1N hydrochloric acid (to pH 4). A resulting precipitate was collected by filtration, and washed with water to give (2E)-3-(6-{[(3R)-1-phenyl-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid hydrochloride (39 mg).

reactant | ethyl (2E)-3-(6-{[(3R)-1-phenyl-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate | 47 mg | C1(=CC=CC=C1)N1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C/C(=O)OCC | C20H23N3O2
reactant | sodium hydroxide | 1N, 0.42 mL | [OH-].[Na+]
reactant | H2O | 7 mL | O | H2O
reactant | hydrochloric acid | 1N, pH 4 | Cl | ClH
solvent | dioxane | 1.4 mL | O1CCOCC1 | C4H8O2
product | (2E)-3-(6-{[(3R)-1-phenyl-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid hydrochloride | 39 mg | Cl.C1(=CC=CC=C1)N1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C/C(=O)O | InChI=1S/C18H19N3O2.ClH/c22-18(23)9-7-14-6-8-17(19-12-14)20-15-10-11-21(13-15)16-4-2-1-3-5-16;/h1-9,12,15H,10-11,13H2,(H,19,20)(H,22,23);1H/b9-7+;/t15-;/m1./s1
